US07816344B2
4-(2-Benzyloxy ethoxy)-2-bromobenzaldehyde
A mixture of 2-bromo-4-fluoro-benzaldehyde (32.0 g, 157 mmol), Na2CO3 (85.5 g, 788 mmol), and 2-benzyloxy ethanol (24.0 g, 158 mmol) in anhydrous DMSO (300 mL) were heated under N2 at 130° C. (bath temp) for 18 h. The reaction mixture cooled to rt, diluted with H2O (100 mL), and extracted with EtOAc The organic layer was washed with H2O then brine, dried (MgSO4), and concentrated in vacuo The residue was purified by flash chromatography (hexane to 10% EtOAc in hexane) to give the title compound as a viscous liquid: yield 11.8 g (22%).

reactant | 2-bromo-4-fluoro-benzaldehyde | 157 mmol, 32.0 g | BrC1=C(C=O)C=CC(=C1)F | C7H4BrFO
reactant | Na2CO3 | 788 mmol, 85.5 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 2-benzyloxy ethanol | 158 mmol, 24.0 g | C(C1=CC=CC=C1)OCCO | C9H12O2
solvent | DMSO | 300 mL | CS(=O)C | C2H6OS
solvent | H2O | 100 mL | O | H2O
product | 4-(2-Benzyloxy ethoxy)-2-bromobenzaldehyde | C(C1=CC=CC=C1)OCCOC1=CC(=C(C=O)C=C1)Br | C16H15BrO3
